US07109229B2
(a) tert-Butyl-(3-chloro-1-phenyl-propoxy)-dimethyl-silane
3-Chloro-1-phenyl-propan-1-ol (3.87 g, 22.6 mmol), tert-butyldimethylsilyl chloride (3.75 g, 24.9 mmol), imidazole (2.00 g, 29.3 mmmol), and methylene chloride (50 mL) are combined and stirred for 1 hour. The mixture is quenched with saturated aqueous sodium bicarbonate and diluted with methylene chloride (100 mL). The mixture is washed with saturated aqueous ammonium chloride, water, and brine, then is dried over magnesium sulfate, filtered, and concentrated to a crude oil. Purification by flash chromatography, eluting with ethyl acetate:hexane gave 4.82 g (75% yield) of the title compound as a transparent oil. 1HNMR (DMSO-d6) 7.76–7.84 (m, 4H), 7.68–7.74 (m, 1H), 5.39 (dd, J=4, 4 Hz, 1H), 4.19–4.22 (m, 1H), 4.00–4.08(m, 1H), 2.55–2.65 (m, 1H), 2.38–2.48 (m, 1H), 1.34 (s, 9H), 0.53 (s, 3H), 0.28 (s, 3H).

reactant | 3-Chloro-1-phenyl-propan-1-ol | 22.6 mmol, 3.87 g | ClCCC(O)C1=CC=CC=C1 | C9H11ClO
reactant | tert-butyldimethylsilyl chloride | 24.9 mmol, 3.75 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.00 g | N1C=NC=C1 | C3H4N2
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | tert-Butyl-(3-chloro-1-phenyl-propoxy)-dimethyl-silane | 4.82 g, 75% yield | C(C)(C)(C)[Si](C)(C)OC(CCCl)C1=CC=CC=C1 | C15H25ClOSi
